US06441237B1
N-tert.-butoxycarbonyl-3-hydroxy-2-(2,6-dimethylphenyl)-propylamine (6)
14 g (78 mmol) of 3-hydroxy-2-(2,6-dimethylphenyl)-propylamine are dissolved in 140 ml of ethyl acetate and at −10° C. 20.5 g (94 mmol) of di-tert.-butyl pyrocarbonate are added. The mixture is left to react for 1 h at 0° C. and 2 h at RT, the solvent is eliminated in vacuo and 100 ml of 90% acetic acid are added. After 1 h at 50° C. the mixture is concentrated by evaporation in vacuo, the residue is taken up in 200 ml of ethyl acetate and washed twice with 100 ml of 10% ammonia solution. The organic phase is dried and the solvent is eliminated in vacuo. Yield: 19.3 g (89%), oil.

reactant | 3-hydroxy-2-(2,6-dimethylphenyl)-propylamine | 78 mmol, 14 g | OCC(CN)C1=C(C=CC=C1C)C | C11H17NO
reactant | di-tert.-butyl pyrocarbonate | 94 mmol, 20.5 g | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 140 ml | C(C)(=O)OCC | C4H8O2
product | N-tert.-butoxycarbonyl-3-hydroxy-2-(2,6-dimethylphenyl)-propylamine | C(C)(C)(C)OC(=O)NCC(CO)C1=C(C=CC=C1C)C | C16H25NO3
